US06683184B2
1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-(3,5-dichlorophenyl)piperazine
Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)carbamate and 1-(3,5-dichlorophenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)carbamate | CC=1N=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=O | C14H15N3O3
reactant | 1-(3,5-dichlorophenyl)piperazine | ClC=1C=C(C=C(C1)Cl)N1CCNCC1 | C10H12Cl2N2
product | 1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-(3,5-dichlorophenyl)piperazine | yield: 80.5% | CC=1N=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)Cl)Cl | C18H21Cl2N5O2
